US05767285
A mixture of 1.0 g (7.24 mmol) of 3-hydroxybenzoic acid, 3.0 g (25.3 mmol) of allyl bromide, and 5 g (36.2 mmol) of potassium carbonate in 4 mL of N,N-dimethylformamide is stirred at room temperature for 12 hours. The mixture is diluted with 20 mL of ether and washed five times with 20 mL of water. The organic layer is then washed successively with 20 mL of saturated sodium bicarbonate solution and 20 mL of saturated sodium chloride solution. The organic layer is separated and dried over magnesium sulfate. The mixture is filtered and the organic solution is concentrated in vacuo to give 1.4 g (88%) of 3-(2-propenyloxy)benzoic acid, 2-propenyl ester as a clear colorless oil. The product is utilized in the next reaction without further purification. The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 1720, 1650, 1600 cm-1 ; MS (CI low res) m/e 219 (M+H), 203, 175, 161; Analysis calculated for C13H14O3 : C, 71.54; H, 6.47; found: C, 70.31; H, 5.97.

reactant | 3-hydroxybenzoic acid | 7.24 mmol, 1.0 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | allyl bromide | 25.3 mmol, 3.0 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 36.2 mmol, 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(2-propenyloxy)benzoic acid, 2-propenyl ester | 1.4 g, 88% | C(C=C)OC=1C=C(C(=O)OCC=C)C=CC1 | C13H14O3
